* File: CMOS_FA.pex.sp.pex
* Created: Mon Jun  5 09:47:05 2023
* Program "Calibre xRC"
* Version "v2018.2_24.18"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_CMOS_FA%A 40 44 48 52 56 60 64 68 73 79 84 88 133
c0 111 0 0.0135357f
c1 110 0 0.00294009f
c2 107 0 0.0389581f
c3 106 0 0.0555538f
c4 104 0 0.0122426f
c5 101 0 0.0529603f
c6 100 0 0.0886779f
c7 96 0 0.0659574f
c8 95 0 0.0818045f
c9 91 0 0.036349f
c10 90 0 0.0739443f
c11 86 0 0.0745849f
c12 84 0 0.340148f
c13 80 0 0.0849134f
c14 77 0 0.0580192f
c15 76 0 0.0751687f
c16 73 0 0.154599f
c17 69 0 0.0863938f
c18 66 0 0.067895f
c19 64 0 0.319736f
c20 60 0 0.238322f
c21 56 0 0.254376f
c22 52 0 0.253104f
c23 48 0 0.258543f
c24 44 0 0.190412f
c25 40 0 0.206319f
c26 36 0 0.119713f
c27 32 0 0.13088f
c28 31 0 0.0980869f
c29 30 0 0.421068f
c30 29 0 0.173758f
c31 26 0 0.0498416f
c32 25 0 0.140333f
c33 24 0 0.0633235f
c34 20 0 0.0219785f
c35 16 0 0.034299f
c36 14 0 0.377394f
r37 106 109 8.07022
r38 106 108 8.07022
r39 106 107 13.2552
r40 100 103 8.07022
r41 100 102 8.07022
r42 100 101 13.2552
r43 95 98 8.07022
r44 95 97 8.07022
r45 95 96 13.2552
r46 91 133 0.035
r47 90 93 8.07022
r48 90 92 8.07022
r49 90 91 13.2552
r50 86 111 3.81101
r51 86 88 17.5
r52 82 111 3.81101
r53 82 84 137
r54 81 110 4.5
r55 80 111 0.990414
r56 80 81 35.5
r57 77 110 4.5
r58 77 79 17.5
r59 76 110 4.5
r60 76 109 46
r61 73 108 67.5
r62 70 104 0.990414
r63 69 110 4.5
r64 69 70 35.5
r65 66 104 3.81101
r66 66 68 17.5
r67 62 104 3.81101
r68 62 64 137
r69 60 103 60
r70 56 102 67.5
r71 52 98 60
r72 48 97 67.5
r73 44 93 60
r74 40 92 67.5
r75 36 107 8
r76 35 36 8
r77 32 35 0.01625
r78 29 101 8
r79 28 31 0.0487391
r80 28 30 0.0487391
r81 28 29 8
r82 26 30 0.8229
r83 24 96 8
r84 23 26 0.0487391
r85 23 25 0.0487391
r86 23 24 8
r87 20 91 8
r88 19 20 8
r89 16 19 0.01625
r90 14 32 0.0255799
r91 14 31 0.6617
r92 11 16 0.0255799
r93 11 25 0.3406
.ends

.subckt PM_CMOS_FA%B 31 36 43 46 49 53 57 61 66 72 77 81 122
c0 99 0 0.0135357f
c1 98 0 0.00294009f
c2 95 0 0.0403824f
c3 94 0 0.0573102f
c4 92 0 0.0135357f
c5 89 0 0.0590397f
c6 88 0 0.0892338f
c7 86 0 0.0139605f
c8 85 0 0.0494478f
c9 79 0 0.083178f
c10 77 0 0.340931f
c11 73 0 0.0910216f
c12 70 0 0.0657552f
c13 69 0 0.137209f
c14 66 0 0.0958102f
c15 62 0 0.0899094f
c16 59 0 0.0779629f
c17 57 0 0.331261f
c18 53 0 0.338456f
c19 49 0 0.133781f
c20 44 0 0.137436f
c21 41 0 0.0997832f
c22 39 0 0.0535362f
c23 37 0 0.0857123f
c24 34 0 0.11935f
c25 33 0 0.151763f
c26 32 0 0.101316f
c27 29 0 0.0873224f
c28 27 0 0.101908f
c29 23 0 0.147705f
c30 22 0 0.0777753f
c31 21 0 0.34992f
c32 20 0 0.122316f
c33 16 0 0.0742823f
c34 12 0 0.074684f
c35 10 0 0.633275f
r36 95 122 0.0305319
r37 94 97 8.07022
r38 94 96 8.07022
r39 94 95 13.2552
r40 88 91 8.07022
r41 88 90 8.07022
r42 88 89 13.2552
r43 84 85 13.2552
r44 82 84 6.30388
r45 79 99 3.81101
r46 79 81 17.5
r47 75 99 3.81101
r48 75 77 137
r49 74 98 4.5
r50 73 99 0.990414
r51 73 74 35.5
r52 70 98 4.5
r53 70 72 17.5
r54 69 98 4.5
r55 69 97 84.5
r56 66 96 29
r57 63 92 0.990414
r58 62 98 4.5
r59 62 63 35.5
r60 59 92 3.81101
r61 59 61 17.5
r62 55 92 3.81101
r63 55 57 137
r64 53 91 98.5
r65 49 90 29
r66 44 46 30
r67 41 43 20
r68 40 82 4.67462
r69 39 41 5.02856
r70 39 40 12
r71 38 86 0.990414
r72 37 44 5.02856
r73 37 38 25.5
r74 34 86 3.81101
r75 34 36 30
r76 33 86 3.81101
r77 32 84 8.06232
r78 32 33 59.5
r79 29 82 5.24982
r80 29 31 20
r81 27 95 8
r82 26 27 8
r83 23 26 0.01625
r84 20 89 8
r85 19 22 0.0487391
r86 19 21 0.0487391
r87 19 20 8
r88 16 85 8
r89 15 16 8
r90 12 15 0.01625
r91 10 23 0.0255799
r92 10 22 1.5457
r93 9 12 0.0255799
r94 9 21 0.8814
.ends

.subckt PM_CMOS_FA%3 23 24 28 29 33 34
c0 37 0 0.104304f
c1 32 0 0.101686f
c2 27 0 0.107971f
c3 21 0 0.16765f
c4 20 0 0.045473f
c5 18 0 0.115471f
c6 14 0 0.166953f
c7 11 0 0.0676975f
c8 10 0 0.137957f
c9 9 0 0.075757f
c10 8 0 0.127839f
r11 36 37 16.3327
r12 34 36 9.2961
r13 33 36 9.2961
r14 31 32 16.3327
r15 29 31 9.2961
r16 28 31 9.2961
r17 26 27 16.3327
r18 24 26 9.2961
r19 23 26 9.2961
r20 21 37 8
r21 20 21 8
r22 18 32 8
r23 17 18 8
r24 14 27 8
r25 13 14 8
r26 11 17 0.0487391
r27 10 20 0.0487391
r28 10 11 0.3328
r29 9 13 0.0487391
r30 8 17 0.0487391
r31 8 9 0.3328
.ends

.subckt PM_CMOS_FA%4 23 24 28 29 33 34
c0 37 0 0.109118f
c1 32 0 0.102105f
c2 27 0 0.109284f
c3 21 0 0.169545f
c4 20 0 0.0321353f
c5 18 0 0.119307f
c6 14 0 0.169545f
c7 11 0 0.029645f
c8 10 0 0.0715548f
c9 9 0 0.0362568f
c10 8 0 0.0758142f
r11 36 37 16.3327
r12 34 36 6.39
r13 33 36 6.39
r14 31 32 16.3327
r15 29 31 6.39
r16 28 31 6.39
r17 26 27 16.3327
r18 24 26 6.39
r19 23 26 6.39
r20 21 37 8
r21 20 21 8
r22 18 32 8
r23 17 18 8
r24 14 27 8
r25 13 14 8
r26 11 17 0.0487391
r27 10 20 0.0487391
r28 10 11 0.3328
r29 9 13 0.0487391
r30 8 17 0.0487391
r31 8 9 0.3328
.ends

.subckt PM_CMOS_FA%CIN 28 32 37 41 44 48 53 59 64 68 98
c0 83 0 0.0129001f
c1 82 0 0.00294009f
c2 79 0 0.0452157f
c3 78 0 0.0575098f
c4 76 0 0.0135357f
c5 75 0 0.118903f
c6 72 0 0.053487f
c7 71 0 0.0840949f
c8 69 0 0.0170563f
c9 66 0 0.0712472f
c10 64 0 0.336159f
c11 60 0 0.0904555f
c12 57 0 0.0661047f
c13 56 0 0.134465f
c14 53 0 0.095888f
c15 49 0 0.0906579f
c16 46 0 0.0831794f
c17 44 0 0.330059f
c18 37 0 0.267506f
c19 33 0 0.120574f
c20 30 0 0.122201f
c21 28 0 0.320393f
c22 25 0 0.125787f
c23 22 0 0.0755492f
c24 18 0 0.09783f
c25 17 0 0.0726106f
c26 15 0 0.0577069f
c27 14 0 0.200038f
c28 13 0 0.0489857f
c29 11 0 0.0475538f
c30 10 0 0.303133f
c31 9 0 0.0491763f
c32 6 0 0.553793f
r33 79 98 0.0342553
r34 78 81 8.07022
r35 78 80 8.07022
r36 78 79 13.2552
r37 74 75 5.29363
r38 71 74 4.30851
r39 71 73 8.07022
r40 71 72 13.2552
r41 66 83 3.81101
r42 66 68 17.5
r43 62 83 3.81101
r44 62 64 137
r45 61 82 4.5
r46 60 83 0.990414
r47 60 61 35.5
r48 57 82 4.5
r49 57 59 17.5
r50 56 82 4.5
r51 56 81 84.5
r52 53 80 29
r53 50 76 0.990414
r54 49 82 4.5
r55 49 50 35.5
r56 46 76 3.81101
r57 46 48 17.5
r58 42 76 3.81101
r59 42 44 137
r60 41 75 30
r61 37 73 93.5
r62 34 69 0.990414
r63 33 74 4.73303
r64 33 34 51.25
r65 30 69 3.81101
r66 30 32 30
r67 26 69 3.81101
r68 26 28 112
r69 25 79 8
r70 24 25 8
r71 22 24 0.0155651
r72 18 72 8
r73 17 20 0.01625
r74 17 18 8
r75 14 22 0.026949
r76 14 15 0.4108
r77 12 15 0.0363174
r78 12 13 0.1352
r79 10 13 0.0363174
r80 10 11 0.6305
r81 8 11 0.0363174
r82 8 9 0.1352
r83 7 20 0.0255799
r84 6 9 0.0363174
r85 6 7 1.2896
.ends

.subckt PM_CMOS_FA%6 6 7 11
c0 21 0 0.0700116f
c1 14 0 0.115988f
c2 10 0 0.123786f
c3 3 0 0.0349493f
c4 2 0 0.174803f
r5 14 21 8
r6 13 14 16.3327
r7 11 13 4.59
r8 10 17 8
r9 9 10 16.3327
r10 7 9 4.59
r11 6 9 4.59
r12 3 17 0.0487391
r13 2 21 0.0487391
r14 2 3 0.52
.ends

.subckt PM_CMOS_FA%7 6 7 11
c0 21 0 0.0510687f
c1 14 0 0.207029f
c2 10 0 0.229329f
c3 3 0 0.0198561f
c4 2 0 0.136458f
r5 21 22 8
r6 17 18 8
r7 14 22 0.0746667
r8 13 14 8.16635
r9 11 13 2.295
r10 10 18 0.0746667
r11 9 10 8.16635
r12 7 9 2.295
r13 6 9 2.295
r14 3 17 0.0487391
r15 2 21 0.0487391
r16 2 3 0.52
.ends

.subckt PM_CMOS_FA%8 6 7 11 12
c0 21 0 0.0664316f
c1 15 0 0.1429f
c2 10 0 0.131315f
c3 3 0 0.074225f
c4 2 0 0.0746275f
r5 15 21 8
r6 14 15 16.3327
r7 12 14 4.59
r8 11 14 4.59
r9 10 17 8
r10 9 10 16.3327
r11 7 9 4.59
r12 6 9 4.59
r13 3 17 0.0487391
r14 2 21 0.0487391
r15 2 3 0.2288
.ends

.subckt PM_CMOS_FA%9 6 7 11 12
c0 21 0 0.0536252f
c1 15 0 0.232341f
c2 10 0 0.232513f
c3 3 0 0.0521167f
c4 2 0 0.0720295f
r5 21 22 8
r6 17 18 8
r7 15 22 0.0746667
r8 14 15 8.16635
r9 12 14 2.295
r10 11 14 2.295
r11 10 18 0.0746667
r12 9 10 8.16635
r13 7 9 2.295
r14 6 9 2.295
r15 3 17 0.0487391
r16 2 21 0.0487391
r17 2 3 0.2288
.ends

.subckt PM_CMOS_FA%10 16 17 21 22 26 27
c0 40 0 0.144382f
c1 36 0 0.0946262f
c2 32 0 0.0960327f
c3 30 0 0.101687f
c4 26 0 0.00841943f
c5 25 0 0.0974745f
c6 20 0 0.0978905f
c7 12 0 0.00251352f
c8 11 0 0.0213423f
c9 8 0 0.111542f
c10 7 0 0.0145844f
c11 5 0 0.0135162f
c12 4 0 0.063775f
c13 3 0 0.0195749f
r14 30 40 8
r15 29 30 16.3327
r16 27 29 9.2961
r17 26 29 9.2961
r18 25 36 8
r19 24 25 16.3327
r20 22 24 9.2961
r21 21 24 9.2961
r22 20 32 8
r23 19 20 16.3327
r24 17 19 9.2961
r25 16 19 9.2961
r26 11 40 0.0487391
r27 10 11 0.0702
r28 9 12 0.0275239
r29 8 10 0.0363174
r30 8 9 0.3978
r31 7 36 0.0487391
r32 6 12 0.00715299
r33 6 7 0.0702
r34 4 12 0.0275239
r35 4 5 0.3978
r36 3 32 0.0487391
r37 2 5 0.0363174
r38 2 3 0.0702
.ends

.subckt PM_CMOS_FA%11 16 17 21 22 26 27
c0 40 0 0.158149f
c1 36 0 0.0983746f
c2 32 0 0.0725765f
c3 30 0 0.106954f
c4 26 0 0.00945754f
c5 25 0 0.097639f
c6 20 0 0.100556f
c7 12 0 0.00251352f
c8 11 0 0.0213423f
c9 8 0 0.110722f
c10 7 0 0.0145844f
c11 5 0 0.0135162f
c12 4 0 0.059567f
c13 3 0 0.0195749f
r14 30 40 8
r15 29 30 16.3327
r16 27 29 6.39
r17 26 29 6.39
r18 25 36 8
r19 24 25 16.3327
r20 22 24 6.39
r21 21 24 6.39
r22 20 32 8
r23 19 20 16.3327
r24 17 19 6.39
r25 16 19 6.39
r26 10 40 0.0487391
r27 10 11 0.0702
r28 9 12 0.0275239
r29 8 11 0.0363174
r30 8 9 0.3978
r31 7 12 0.00715299
r32 6 36 0.0487391
r33 6 7 0.0702
r34 4 12 0.0275239
r35 4 5 0.3978
r36 3 5 0.0363174
r37 2 32 0.0487391
r38 2 3 0.0702
.ends

.subckt PM_CMOS_FA%12 45 50 51 55 60 65 66 70 76 80
c0 128 0 0.0662207f
c1 126 0 0.0202713f
c2 117 0 0.175449f
c3 109 0 0.0576585f
c4 104 0 0.0794125f
c5 100 0 0.122074f
c6 96 0 0.127691f
c7 92 0 0.148283f
c8 84 0 0.0858359f
c9 83 0 0.0809161f
c10 80 0 0.133161f
c11 76 0 0.306593f
c12 73 0 0.105878f
c13 69 0 0.105549f
c14 65 0 0.00841943f
c15 58 0 0.105156f
c16 54 0 0.105971f
c17 50 0 0.00989113f
c18 48 0 0.215637f
c19 43 0 0.225017f
c20 41 0 0.057711f
c21 38 0 0.197332f
c22 37 0 0.134871f
c23 36 0 0.0417836f
c24 19 0 0.037262f
c25 18 0 0.068781f
c26 17 0 0.0168088f
c27 15 0 0.0168088f
c28 13 0 0.0154268f
c29 12 0 0.0895412f
c30 11 0 0.0154268f
c31 10 0 0.109207f
c32 9 0 0.0213417f
c33 7 0 0.0213417f
c34 4 0 0.934639f
r35 84 109 8
r36 83 86 8.07022
r37 83 85 8.07022
r38 83 84 13.2552
r39 80 86 40.25
r40 76 85 99.75
r41 73 121 0.0516853
r42 73 100 8
r43 72 73 16.3327
r44 70 72 9.031
r45 69 92 8
r46 68 69 16.3327
r47 66 68 9.2961
r48 65 68 9.2961
r49 63 117 0.035
r50 62 63 16.3327
r51 60 62 4.59
r52 58 128 0.0516853
r53 58 104 8
r54 57 58 16.3327
r55 55 57 6.39
r56 54 96 8
r57 53 54 16.3327
r58 51 53 6.39
r59 50 53 6.39
r60 48 126 0.0487183
r61 47 48 8.16635
r62 45 47 2.295
r63 44 128 0.176522
r64 43 121 0.538696
r65 41 44 0.0532817
r66 41 43 0.0532817
r67 41 42 8
r68 39 126 0.0730435
r69 37 89 0.01625
r70 36 39 0.0532817
r71 36 38 0.0532817
r72 36 37 8
r73 27 117 0.0267979
r74 27 38 0.49913
r75 19 42 0.0487391
r76 18 109 0.0487391
r77 18 19 0.2197
r78 16 104 0.0487391
r79 16 17 0.0702
r80 15 100 0.0487391
r81 14 15 0.0702
r82 12 17 0.0363174
r83 12 13 0.3978
r84 10 14 0.0363174
r85 10 11 0.3978
r86 9 13 0.0363174
r87 8 96 0.0487391
r88 8 9 0.0702
r89 7 92 0.0487391
r90 6 11 0.0363174
r91 6 7 0.0702
r92 5 89 0.0255799
r93 4 42 0.0487391
r94 4 5 2.0904
.ends

.subckt PM_CMOS_FA%13 43 44 48 49 55 59 63 67
c0 93 0 0.17943f
c1 86 0 0.0480656f
c2 82 0 0.0758688f
c3 76 0 0.0868081f
c4 75 0 0.08069f
c5 71 0 0.0877929f
c6 70 0 0.0849709f
c7 67 0 0.308775f
c8 63 0 0.113232f
c9 59 0 0.29816f
c10 55 0 0.119097f
c11 52 0 0.138055f
c12 48 0 0.00298486f
c13 47 0 0.204623f
c14 43 0 0.00495446f
c15 41 0 0.0347525f
c16 40 0 0.103022f
c17 39 0 0.0579404f
c18 28 0 0.0368385f
c19 27 0 0.059171f
c20 26 0 0.22886f
c21 25 0 0.0484301f
c22 23 0 0.0487634f
c23 22 0 0.714182f
c24 21 0 0.0372036f
c25 19 0 0.0211692f
c26 18 0 0.243351f
c27 17 0 0.0198791f
c28 14 0 0.0847678f
c29 13 0 0.0643273f
c30 11 0 0.0112647f
c31 9 0 0.0420159f
c32 8 0 0.181516f
c33 7 0 0.0673156f
c34 5 0 0.0341788f
c35 4 0 0.257777f
c36 3 0 0.0023414f
r37 76 86 8
r38 75 78 8.07022
r39 75 77 8.07022
r40 75 76 13.2552
r41 71 82 8
r42 70 73 8.07022
r43 70 72 8.07022
r44 70 71 13.2552
r45 67 78 114
r46 63 77 26
r47 59 73 98.5
r48 55 72 29
r49 52 91 0.0516853
r50 51 52 16.3327
r51 49 51 4.59
r52 48 51 4.59
r53 47 93 0.0467218
r54 46 47 8.16635
r55 44 46 2.295
r56 43 46 2.295
r57 42 93 0.465652
r58 41 91 0.106522
r59 39 42 0.0532817
r60 39 41 0.0532817
r61 39 40 8
r62 26 86 0.0487391
r63 26 27 0.5915
r64 24 27 0.0363174
r65 24 25 0.1183
r66 22 25 0.0363174
r67 22 23 1.3182
r68 21 23 0.0363174
r69 20 21 0.1352
r70 18 20 0.0363174
r71 18 19 0.5889
r72 16 19 0.0363174
r73 16 17 0.1352
r74 15 28 0.00715299
r75 14 17 0.0363174
r76 14 15 0.1027
r77 12 28 0.0275239
r78 12 13 0.1352
r79 11 28 0.0275239
r80 10 82 0.0487391
r81 10 11 0.0702
r82 8 13 0.0363174
r83 8 9 0.2834
r84 7 9 0.0363174
r85 6 7 0.1352
r86 4 6 0.0363174
r87 4 5 0.533
r88 3 5 0.0363174
r89 2 40 0.0487391
r90 2 3 0.0702
.ends

.subckt PM_CMOS_FA%SUM 7 10 15
c0 18 0 0.118767f
c1 13 0 0.118125f
c2 8 0 0.13105f
c3 7 0 0.0864598f
c4 5 0 0.218636f
r5 17 18 16.3327
r6 15 17 9.031
r7 12 13 16.3327
r8 10 12 6.39
r9 7 9 0.0607285
r10 7 8 0.0458349
r11 5 13 0.0516853
r12 5 9 0.42913
r13 2 18 0.0516853
r14 2 8 0.286087
.ends

.subckt PM_CMOS_FA%GND! 28 63 68 69 73 78 79 83 87 88 92 93 116
c0 96 0 0.100387f
c1 91 0 0.0873439f
c2 86 0 0.0943181f
c3 82 0 0.134056f
c4 78 0 0.00573671f
c5 76 0 0.101604f
c6 72 0 0.121051f
c7 68 0 0.00620275f
c8 66 0 0.0727891f
c9 61 0 0.165686f
c10 27 0 0.0168296f
c11 26 0 1.02103f
c12 23 0 0.0271503f
c13 22 0 0.17646f
c14 19 0 0.0168296f
c15 18 0 0.232451f
c16 15 0 0.0168296f
c17 14 0 0.126924f
c18 11 0 0.0168296f
c19 10 0 0.26694f
c20 7 0 0.0168296f
c21 6 0 0.126617f
c22 2 0 0.0786287f
r23 95 96 16.3327
r24 93 95 9.2961
r25 92 95 9.2961
r26 90 91 16.3327
r27 88 90 9.2961
r28 87 90 9.2961
r29 85 86 16.3327
r30 83 85 9.031
r31 81 82 16.3327
r32 79 81 4.59
r33 78 81 4.59
r34 75 76 16.3327
r35 73 75 4.59
r36 71 72 16.3327
r37 69 71 4.59
r38 68 71 4.59
r39 65 66 16.3327
r40 63 65 4.59
r41 60 61 16.3327
r42 57 60 25.2766
r43 57 58 5.44423
r44 55 58 0.17325
r45 54 57 37.9149
r46 54 55 5.44423
r47 52 55 0.17325
r48 51 54 37.9149
r49 51 52 5.44423
r50 49 52 0.17325
r51 48 51 37.9149
r52 48 49 5.44423
r53 43 116 5.44423
r54 40 43 37.9149
r55 40 41 5.44423
r56 37 40 37.9149
r57 37 38 5.44423
r58 34 37 37.9149
r59 34 35 5.44423
r60 30 34 37.9149
r61 30 31 5.44423
r62 28 48 31.5957
r63 28 43 6.31915
r64 26 58 0.0380625
r65 26 27 0.0157515
r66 25 61 0.0433125
r67 25 27 0.0157515
r68 24 96 0.0870513
r69 24 27 0.0230626
r70 22 116 0.0406875
r71 22 23 0.0157515
r72 21 49 0.0984375
r73 21 23 0.0157515
r74 20 91 0.0870513
r75 20 23 0.0230626
r76 18 41 0.0581875
r77 18 19 0.0157515
r78 17 116 0.0809375
r79 17 19 0.0157515
r80 16 86 0.0870513
r81 16 19 0.0230626
r82 14 38 0.042875
r83 14 15 0.0157515
r84 13 41 0.09625
r85 13 15 0.0157515
r86 12 82 0.0879487
r87 12 15 0.0230626
r88 10 35 0.095375
r89 10 11 0.0157515
r90 9 38 0.04375
r91 9 11 0.0157515
r92 8 76 0.0879487
r93 8 11 0.0230626
r94 6 31 0.0398125
r95 6 7 0.0157515
r96 5 35 0.0993125
r97 5 7 0.0157515
r98 4 72 0.0879487
r99 4 7 0.0230626
r100 3 66 0.0879487
r101 2 31 0.0468125
r102 2 3 0.0454761
.ends

.subckt PM_CMOS_FA%VDD! 28 29 34 35 39 44 45 49 54 55 59 60 103
c0 96 0 0.161752f
c1 63 0 0.0915096f
c2 58 0 0.0884695f
c3 52 0 0.088473f
c4 48 0 0.231798f
c5 44 0 0.00572208f
c6 42 0 0.211501f
c7 38 0 0.188187f
c8 34 0 0.00678157f
c9 32 0 0.127287f
c10 27 0 0.0168296f
c11 26 0 1.01598f
c12 23 0 0.0279389f
c13 22 0 0.177929f
c14 19 0 0.0168296f
c15 18 0 0.22081f
c16 15 0 0.0168296f
c17 14 0 0.122993f
c18 11 0 0.0168296f
c19 10 0 0.254886f
c20 7 0 0.0168296f
c21 6 0 0.121975f
c22 2 0 0.0786287f
r23 95 96 16.3327
r24 92 95 25.2766
r25 92 93 5.44423
r26 90 93 0.17325
r27 89 92 37.9149
r28 89 90 5.44423
r29 87 90 0.17325
r30 86 89 37.9149
r31 86 87 5.44423
r32 84 87 0.17325
r33 83 86 37.9149
r34 83 84 5.44423
r35 78 103 5.44423
r36 75 78 37.9149
r37 75 76 5.44423
r38 72 75 37.9149
r39 72 73 5.44423
r40 69 72 37.9149
r41 69 70 5.44423
r42 65 69 37.9149
r43 65 66 5.44423
r44 62 63 16.3327
r45 60 62 6.39
r46 59 62 6.39
r47 57 58 16.3327
r48 55 57 6.39
r49 54 57 6.39
r50 51 52 16.3327
r51 49 51 6.39
r52 47 48 8.16635
r53 45 47 2.295
r54 44 47 2.295
r55 41 42 8.16635
r56 39 41 2.295
r57 37 38 8.16635
r58 35 37 2.295
r59 34 37 2.295
r60 31 32 8.16635
r61 29 31 2.295
r62 28 83 31.5957
r63 28 78 6.31915
r64 26 93 0.0380625
r65 26 27 0.0157515
r66 25 96 0.0433125
r67 25 27 0.0157515
r68 24 63 0.0870513
r69 24 27 0.0230626
r70 22 103 0.0406875
r71 22 23 0.0157515
r72 21 84 0.0984375
r73 21 23 0.0157515
r74 20 58 0.0870513
r75 20 23 0.0230626
r76 18 76 0.0581875
r77 18 19 0.0157515
r78 17 103 0.0809375
r79 17 19 0.0157515
r80 16 52 0.0870513
r81 16 19 0.0230626
r82 14 73 0.042875
r83 14 15 0.0157515
r84 13 76 0.09625
r85 13 15 0.0157515
r86 12 48 0.175897
r87 12 15 0.0230626
r88 10 70 0.095375
r89 10 11 0.0157515
r90 9 73 0.04375
r91 9 11 0.0157515
r92 8 42 0.175897
r93 8 11 0.0230626
r94 6 66 0.0398125
r95 6 7 0.0157515
r96 5 70 0.0993125
r97 5 7 0.0157515
r98 4 38 0.175897
r99 4 7 0.0230626
r100 3 32 0.175897
r101 2 66 0.0468125
r102 2 3 0.0454761
.ends

.subckt PM_CMOS_FA%COUT 7 10 15
c0 18 0 0.0790895f
c1 13 0 0.0789082f
c2 8 0 0.182081f
c3 7 0 0.0635388f
c4 5 0 0.0610713f
r5 17 18 16.3327
r6 15 17 9.031
r7 12 13 16.3327
r8 10 12 6.39
r9 7 9 0.085303
r10 7 8 0.0212605
r11 5 13 0.0516853
r12 5 9 0.208478
r13 2 18 0.0516853
r14 2 8 0.506739
.ends

.subckt PM_CMOS_FA%18 1 2
c0 1 0 0.012743f
r1 1 2 2.25
.ends

.subckt PM_CMOS_FA%19 1 2
c0 1 0 0.0126118f
r1 1 2 4.5
.ends

